US06576643B2
c) (±)-10,11-Dihydro-3-[2-[6-(methylamino)pyridin-2-yl]-1-ethoxy]dibenzo[b,f]oxepine-10-acetic acid
A mixture of ethyl (±)-10,11-dihydro-3-[2-[6(methylamino)pyridin-2-yl]-1-ethoxy]dibenzo[b,f]oxepine-10-acetic acid (0.26 mmole) and 0.991 N NaOH (0.525 mL, 0.52 mmole) in absolute EtOH (2 mL) was warmed in an oil bath set at 50° C. After 20 hr, the reaction was concentrated on the rotavap and the residue was dissolved in H2O (1.5 mL). The solution was filtered to remove insoluble material, and the filtrate was carefully neutralized by dropwise addition of 1.0 N HCl. The precipitate was collected and dried in high vacuum to afford the title compound (72 mg, 30% for 2 steps) as an off-white solid: MS (ES) m/e 405.0 (M+H)+. Anal. Calcd for C24H24N2O4.1.25HCl. 0.25H2O: C, 63.42; H, 5.71; N, 6.16. Found: C, 63.35; H, 5.9; N, 6.16.

reactant | ethyl (±)-10,11-dihydro-3-[2-[6(methylamino)pyridin-2-yl]-1-ethoxy]dibenzo[b,f]oxepine-10-acetic acid | 0.26 mmole | C(C)C1=CC(=CC=2OC3=C(C(CC21)CC(=O)O)C=CC=C3)OCCC3=NC(=CC=C3)NC | C26H28N2O4
reactant | NaOH | 0.52 mmole, 0.991 N, 0.525 mL | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | (±)-10,11-Dihydro-3-[2-[6-(methylamino)pyridin-2-yl]-1-ethoxy]dibenzo[b,f]oxepine-10-acetic acid | 72 mg, 30% | CNC1=CC=CC(=N1)CCOC=1C=CC2=C(OC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C24H24N2O4
